US04851526
2-[[[4-(1H-imidazol-1-yl)phenyl](propyl)amino]carbonyl]-cyclohexane carboxylic acid
In a manner similar to Preparation 6, react 4-(1H-imidazol-1-yl)-N-propylbenzenamine with 1,2-cyclohexanedicarboxylic acid anhydride to obtain the title compound.

reactant | 4-(1H-imidazol-1-yl)-N-propylbenzenamine | N1(C=NC=C1)C1=CC=C(C=C1)NCCC | C12H15N3
reactant | 1,2-cyclohexanedicarboxylic acid anhydride | C12C(CCCC1)C(=O)OC2=O | C8H10O3
product | 2-[[[4-(1H-imidazol-1-yl)phenyl](propyl)amino]carbonyl]-cyclohexane carboxylic acid | N1(C=NC=C1)C1=CC=C(C=C1)N(C(=O)C1C(CCCC1)C(=O)O)CCC | C20H25N3O3
